US05681954
2-[2-(2-Acetamidoethyl)-4,5-dimethoxyphenyl]-5,6-dimethoxyindole
To a 80% acetic acid solution of 4.60 g of 2-(2-acetamidoethyl)-2'-nitro-4,4', 5,5'-tetramethoxydeoxybenzoin was slowly added 4.7 g of zinc at 85° C. The reaction mixture was filtered, washed with ethanol, and the solvent was evaporated. To the residue was added an ammonium hydroxide aqueous solution, and the mixture was extracted with ethyl acetate. The solvent was evaporated, and the residue was purified by silica gel column chromatography (ethyl acetate) to yield 1.84 g of the title compound.

reactant | 2-(2-acetamidoethyl)-2'-nitro-4,4', 5,5'-tetramethoxydeoxybenzoin | 4.60 g | C(C)(=O)NCCC1=C(C=C(C(=C1)OC)OC)C(=O)CC1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-] | C22H26N2O8
catalyst | zinc | 4.7 g | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[2-(2-Acetamidoethyl)-4,5-dimethoxyphenyl]-5,6-dimethoxyindole | 1.84 g | C(C)(=O)NCCC1=C(C=C(C(=C1)OC)OC)C=1NC2=CC(=C(C=C2C1)OC)OC | C22H26N2O5
